US08614234B2
To a stirred solution of methyl [({5-[4-(2-fluoro-5-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)pyridin-2-yl]-1H-pyrrol-3-yl}carbonyl)amino]acetate (110 mg, 0.21 mmol) in a mixture of solvents THF/MeOH (5 ml/5 ml) was added 1M NaOH solution (1 ml, 1 mmol). The mixture was stirred at room temperature for 1 hour, and poured into 100 ml of water. 2M HCl was added until pH=4. The precipitates were filtered, washed with water and dried in vacuo to give [({5-[4-(2-fluoro-5-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)pyridin-2-yl]-1H-pyrrol-3-yl}carbonyl)amino]acetic acid as white solid. Yield: 100 mg, 93%.

reactant | methyl [({5-[4-(2-fluoro-5-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)pyridin-2-yl]-1H-pyrrol-3-yl}carbonyl)amino]acetate | 0.21 mmol, 110 mg | FC1=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)NCC(=O)OC)C=C(C=C1)C(=O)NC1=C(C=CC(=C1)C)F | C27H22F2N4O5
reactant | THF MeOH | 5 ml | C1CCOC1.CO
reactant | NaOH | 1 mmol, 1M, 1 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | water | 100 ml | O | H2O
product | [({5-[4-(2-fluoro-5-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)pyridin-2-yl]-1H-pyrrol-3-yl}carbonyl)amino]acetic acid | FC1=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)NCC(=O)O)C=C(C=C1)C(=O)NC1=C(C=CC(=C1)C)F | C26H20F2N4O5
